US05095038
A mixture of cuprous cyanide (2.52 g), sodium cyanide (1.68 g), and dimethylformamide (50 ml, distilled over CaH2) was stirred for 1 h. The homogeneous solution was cooled to 0° C. and a solution of 1-(4-methoxycarbonyl-2-methoxyphenylmethyl)naphthalene-7-diazonium tetrafluoroborate (2.62 g), in dimethylformamide (12 ml, distilled over CaH2) was added. The reaction was stirred for 15 min at 0° C. and then at room temperature for 16 h. The mixture was added to ethyl acetate (200 ml) and water (300 ml) and filtered through diatomaceous earth with ethyl acetate washes. The organic layer was washed (water, brine), dried (MgSO4), and evaporated. Flash chromatography of the residue, eluting with methylene chloride, and trituration of the product with hot ether afforded methyl 4-(7-cyanonaphth-1-ylmethyl)-3-methoxybenzoate (1.04 g, 56%) as a pale yellow solid; mp 138.5°-139.5° C.; MS(CI), m/e=33Z(M+H).

reactant | sodium cyanide | 1.68 g | [C-]#N.[Na+]
reactant | 1-(4-methoxycarbonyl-2-methoxyphenylmethyl)naphthalene-7-diazonium tetrafluoroborate | 2.62 g | F[B-](F)(F)F.COC(=O)C1=CC(=C(C=C1)CC1=CC=CC2=CC=C(C=C12)[N+]#N)OC
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | methyl 4-(7-cyanonaphth-1-ylmethyl)-3-methoxybenzoate | 1.04 g, 56% | C(#N)C1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC | C21H17NO3
